US05650410
N,N'-Carbonyldiimidazole (11.2 g) was added to a suspension of 4-(N,N-diethylamino)butanoic acid (10.0 g) in tetrahydrofuran (400 ml), and the mixture was stirred at room temperature for 6 hours. Then monoethyl malonate magnesium salt (Mg(OCOCH2COOC2H5)2)(19.8 g) was added, and the mixture was stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in chloroform. The chloroform layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform-methanol (5:1, v/v) gave ethyl 6-(N,N-diethylamino)-3-oxohexanoate (7.6 g, 53%).

reactant | 4-(N,N-diethylamino)butanoic acid | 10.0 g | C(C)N(CC)CCCC(=O)O | C8H17NO2
reactant | monoethyl malonate magnesium salt | 19.8 g | [Mg+].C(CC(=O)[O-])(=O)OCC
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | ethyl 6-(N,N-diethylamino)-3-oxohexanoate | 7.6 g, 53% | C(C)N(CC)CCCC(CC(=O)OCC)=O | C12H23NO3
